US05077409
N-[3-(Hydroxymethyl)phenyl]-3-(tetradecyloxy) benzeneacetamide
To a solution of 10.5 g of 3-(tetradecyloxy)benzeneacetyl chloride in 110 ml of tetrahydrofuran is added a solution of m-aminobenzyl alcohol in 110 ml of tetrahydrofuran containing 9.05 g of pyridine followed by stirring at ambient temperature for 4 hours and storing in a refrigerator over the weekend. The solvent is evaporated and the residue is poured into water and extracted with tetrahydrofuran:ether. The organic layer is washed with dilute hydrochloric acid, dried and filtered through a pad of magnesium silicate. The filtrate is evaporated and the residue purified by high pressure liquid chromatography using 2:1 hexane:ethyl acetate to give 3.6 g of the desired product as a white powder, m.p. 108°-110° C. and 5.B g of a white powder, m.p. 86°-90° C. found to be 3-(tetradecyloxy)-[3-[[[3-(tetradecyloxy)phenyl]acetyl]amino]phenyl]benzeneacetic acid methyl ester.

reactant | 3-(tetradecyloxy)benzeneacetyl chloride | 10.5 g | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1)CC(=O)Cl | C22H35ClO2
reactant | m-aminobenzyl alcohol | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 ml, 9.05 g | O1CCCC1 | C4H8O
product | N-[3-(Hydroxymethyl)phenyl]-3-(tetradecyloxy) benzeneacetamide | 3.6 g | OCC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C29H43NO3
